US07186716B2
3-(4-Bromo-1H-pyrrol-2-yl)-5-nitro-1H-indazole
A mixture of (4-bromo-1H-pyrrol-2-yl)-(2-chloro-5-nitro-phenyl)-methanone (400 mg) and hydrazine hydrate (0.4 mL) in toluene (6 mL) and 1-methyl-2-pyrrolidinone (1.5 mL) was heated at 110° C. for 1 hour. The reaction was concentrated, the residue was triturated with 10% ethyl acetate in DCM to give 210 mg of the titled compound as an orange solid.

reactant | (4-bromo-1H-pyrrol-2-yl)-(2-chloro-5-nitro-phenyl)-methanone | 400 mg | BrC=1C=C(NC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C11H6BrClN2O3
reactant | hydrazine hydrate | 0.4 mL | O.NN
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1-methyl-2-pyrrolidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(4-Bromo-1H-pyrrol-2-yl)-5-nitro-1H-indazole | 210 mg | BrC=1C=C(NC1)C1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C11H7BrN4O2
